* Z:\mnt\design.r\spice\examples\1713.asc
V1 +V 0 5
R1 N003 0 1K
R2 +V N003 1K
R3 N002 N001 1K
C1 N001 0 .1µ
R4 N002 P001 210
XU1 N007 N006 +V 0 SINE NC_01 LT1806
R5 SINE N006 15.8K
C2 N006 N005 100p
C3 SINE N005 100p
R6 N003 N004 1K
C4 N004 0 100p
R7 N007 0 1K
R8 +V N007 1K
C5 N007 0 .1µ
R9 N004 N005 6.49K
R10 N005 0 162
XU2 N003 N001 +V 0 0 N002 SQUARE 0 LT1713
C§Y1 P001 N003 1.6p Rser=45 Lser=15.6m Cpar=6p
.tran 250u startup
* 1MHz Crystal Oscillator with Square and Sine Wave Outputs
.lib LTC.lib
.lib LTC1.lib
.backanno
.end
